US08293768B2
Synthesis of 1-(4-methyl-5-(3-methyl-1,2,4-oxadiazol-5-yl)thiazol-2-yl)-3-(4-(trifluoromethyl)benzyl)imidazolidin-2-one
To a solution of 4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiazole-5-carboxylic acid (0.39 g, 1.00 mmol) in N,N-dimethylformamide (10 mL) was added 1,1′-carbonyldiimidazole (0.24 g, 1.50 mmol). The reaction mixture was stirred at ambient temperature for 10 minutes, and N-hydroxyacetamidine (0.08 g, 1.1 mmol) was added. The stirring was continued at ambient temperature for 6 hours, and another portion of N-hydroxyacetamidine (0.08 g, 1.1 mmol) was added. The reaction mixture was heated for 23 hours at 110° C. and cooled to ambient temperature, diluted with ethyl acetate and washed with water and brine. The organic solution was dried over anhydrous sodium sulfate, and filtered and concentrated in vacuo. The residue was purified by column chromatography to afford the title compound in 15% yield (0.06 g): mp 163-164° C. (ethyl acetate); 1H NMR (300 MHz, CDCl3) δ 7.60 (d, J=8.1 Hz, 2H), 7.41 (d, J=8.1 Hz, 2H), 4.55 (s, 2H), 4.15-4.09 (m, 2H), 3.51-3.45 (m, 2H), 2.68 (s, 3H), 2.41 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 170.8, 167.3, 160.5, 155.3, 154.5, 139.6, 128.5, 125.9, 125.8, 122.1, 109.0, 47.6, 42.1, 41.9, 17.5, 11.6; MS (ES+) m/z 424.1 (M+1).

reactant | 4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiazole-5-carboxylic acid | 1.00 mmol, 0.39 g | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O | C16H14F3N3O3S
reactant | 1,1′-carbonyldiimidazole | 1.50 mmol, 0.24 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-hydroxyacetamidine | 1.1 mmol, 0.08 g | ONC(C)=N | C2H6N2O
reactant | N-hydroxyacetamidine | 1.1 mmol, 0.08 g | ONC(C)=N | C2H6N2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-methyl-5-(3-methyl-1,2,4-oxadiazol-5-yl)thiazol-2-yl)-3-(4-(trifluoromethyl)benzyl)imidazolidin-2-one | 15% yield | CC=1N=C(SC1C1=NC(=NO1)C)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O | C18H16F3N5O2S
